US07067506B2
Step 2: 2-Chloro-5,6-diphenylpyrazine.
A stirred solution of 2-Hydroxy-5,6-diphenylpyrazine (430 mg, 1.7 mmol) in 5.2 mL POCl3 in a capped reaction vial was heated to 100° C. for 4 hours. The orange solution was cooled to room temperature and stirred rapidly in a mixture of CH2Cl2 (100 mL) and ice cold 10% Na2CO3 (100 mL) for 15 minutes. The organic layer was isolated and washed 2×100 mL with 10% Na2CO3. The organics were isolated, dried (MgSO4), filtered and concentrated to the chloropyrazine, which existed as white solid (450 mg, quantitative). 1H-NMR (400 MHz, CDCl3) δ8.59 (s, 1H), 7.45-7.39 (m, 4H), 7.36-7.24 (m, 6H).

reactant | 2-Hydroxy-5,6-diphenylpyrazine | 1.7 mmol, 430 mg | OC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12N2O
reactant | POCl3 | 5.2 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5,6-diphenylpyrazine | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
